US04757079
A mixture of 5.3 g (0.03 mole) of 1-(chloromethyl)naphthalene and 8.6556 g (0.033 mole) of triphenylphosphine in 150 mL of dimethylformamide was heated at reflux with stirring for 5 hours. A copious white precipitate formed. The precipitate was filtered and washed with 100 mL of dimethylformamide and 100 mL of ether. The product was dried in vacuo to yield 11.97 g (91%) of 1-naphthylmethyltriphenylphosphonium chloride as white crystals: mp 285°-288°; IR (KBr) 3050, 3010, 2880, 2790, 1665, 1590, 1510, 1485, 1440, 1385, 1335, 1275, 1155, 1110, 1095, 875, 810, 785, 730, and 690 cm-1 ; NMR (DMSO) δ5.67 (d, J=15 Hz, 2H), 7.60 (m, 15H) and 7.73 (m, 7H).

reactant | 1-(chloromethyl)naphthalene | 0.03 mole, 5.3 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | triphenylphosphine | 0.033 mole, 8.6556 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 1-naphthylmethyltriphenylphosphonium chloride | 11.97 g, 91% | [Cl-].C1(=CC=CC2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H24P.ClH/c1-4-16-26(17-5-1)30(27-18-6-2-7-19-27,28-20-8-3-9-21-28)23-25-15-12-14-24-13-10-11-22-29(24)25;/h1-22H,23H2;1H/q+1;/p-1
